US08053456B2
A flask was charged with [5-(5-Isopropyl-2,4-dibenzyloxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine (0.33 mmol, 183 mg.), dichloromethane (10 mL), diisopropylethylamine (3 eq., 0.2 mmol), and benzoyl chloride (2 eq., 70 mg.), and the reaction was stirred for 16 hours. The organic solution was washed with saturated ammonium chloride (2×5 mL), dried and the product was purified by column chromatography to give N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide and also N-benzoyl-N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide. The N-benzoyl-N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide was dissolved in methanol (5 mL), and 10% aqueous potassium carbonate (1 mL) was added, and the reaction was stirred for 16 hours. The solvent was then evaporated, and the solid was dissolved in ethyl acetate (10 mL), washed with water (2×5 mL), dried and evaporated to give more N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide. The N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide was hydrogenolyzed in a fashion analgous to N-(5-(2,4-dihydroxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide (Compound 4) to give N-(5-(2,4-dihydroxy-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide. MS: expected ion=467.2; observed ion=467.3.

reactant | N-benzoyl-N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide | C(C1=CC=CC=C1)(=O)N(C(C1=CC=CC=C1)=O)C1=NN=C(N1C=1C=C2C=CN(C2=CC1)C)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C48H41N5O4
reactant | potassium carbonate | 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)benzamide | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C=1N(C(=NN1)NC(C1=CC=CC=C1)=O)C=1C=C2C=CN(C2=CC1)C | C41H37N5O3
